OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8603186949142564864
* Revision: Rev. 1.0
.model OC_HONGJIACHENG_DSL34 D(IS=5.6442833078e-7 N=1.1000000000e0 RS=1.0000000000e-4)
.temp 25
Itest 0 anode DC 3.000000000000e+00
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_DSL34
.op
.end
